US04025635
A. 4-Chloro-3-mercaptobenzoic acid
3-Amino-4-chlorobenzoic acid (34.3g) was added to 5N hydrochloric acid (120 ml) and cooled to 0° C. To the stirred suspension was added a solution of sodium nitrite (14.5g) in water (35 ml) over 30 min. with the temperature maintained at 0° to 5° C. The yellow diazonium solution, containing some suspended solid was added to a solution of potassium ethyl xanthate (37.5g) in water (60 ml), containing 0.2g nickel chloride, at 45°-50° C. Nitrogen evolution occurred and the yellow solid which precipitated at first decomposed to a red oil which then solidified. When the addition was complete, the mixture was heated to 70° C., cooled, and the red solid filtered off and washed with water. It was then boiled with a solution of potassium hydroxide (60 g) in water (300 ml) for 2 hr., cooled, filtered and acidified with excess hydrochloric acid. Thin-layer chromatography indicated the presence of 2 components in the precipitated creamy solid. Recrystallisation from acetic acid yielded a by-product, m.p. 240°-290° C., and dilution of the recrystallisation liquors gave a solid which was recrystallised from aqueous ethanol yielding mainly 4-chloro-3-mercapto-benzoic acid, m.p. 209°-211° C.

reactant | 3-Amino-4-chlorobenzoic acid | 34.3g | NC=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO2
reactant | hydrochloric acid | 5N, 120 ml | Cl | ClH
reactant | sodium nitrite | 14.5g | N(=O)[O-].[Na+]
reactant | potassium ethyl xanthate | 37.5g | O(C(=S)[S-])CC.[K+]
solvent | water | 35 ml | O | H2O
solvent | water | 60 ml | O | H2O
catalyst | nickel chloride | 0.2g | [Ni](Cl)Cl
product | 4-Chloro-3-mercaptobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)S | C7H5ClO2S
